.SUBCKT sg13g2_nor4_2 Y A B C D VDD VSS
*.PININFO A:I B:I C:I D:I Y:O VDD:B VSS:B
MP0 net3 A VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP1 net2 B net3 VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP2 net1 C net2 VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP3 Y D net1 VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MN0 Y A VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN3 Y D VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN1 Y B VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN2 Y C VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
.ENDS
